US08802661B2
Preparation of methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(chlorocarbonyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate. Intermediate 7
To a flask containing (1R,3aS,5aR,5bR,7aR,11aS,11bR,13bR)-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid (0.1-4.2 mmol scale) was added oxalyl chloride (2M in dichloromethane) (10-50 equiv.). The solution was stirred at rt for 2-5 h and was stripped of solvent. The residue was dissolved in dichloromethane and concentrated two additional times, then was used with no additional purification in the next step. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.92 (d, J=8.55 Hz, 2H), 7.19 (d, J=8.24 Hz, 2H), 5.26-5.30 (m, 1H), 4.73 (d, J=1.53 Hz, 1H), 4.62-4.64 (m, 1H), 3.90 (s, 3H), 2.81 (td, J=11.14, 4.58 Hz, 1H), 2.47 (ddd, J=13.58, 3.20, 3.05 Hz, 1H), 2.19-2.28 (m, 2H), 2.10 (dd, J=17.09, 6.41 Hz, 1H), 1.85-1.99 (m, 1H), 1.68 (s, 3H), 1.00 (s, 6H), 0.98 (s, 3H), 0.92 (s, 3H), 0.92 (s, 3H), 0.84-1.83 (m, 17H). 13C NMR (126 MHz, CHLOROFORM-d) δ ppm 177.49, 167.35, 149.46, 148.81, 146.39, 130.17 (s, 2C), 128.61 (s, 2C), 128.03, 124.12, 110.40, 68.00, 52.99, 52.11, 49.78, 49.67, 46.11, 42.54, 41.86, 40.70, 38.00, 37.60, 36.39, 36.31, 33.64, 32.3, 29.98, 29.72, 29.54, 25.60, 21.37, 21.13, 19.86, 19.48, 16.59, 15.71, 14.89.

reactant | (1R,3aS,5aR,5bR,7aR,11aS,11bR,13bR)-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid | 0.1-4.2 mmol | COC(=O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H](C4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)O)C)C)(C)C | C38H52O4
reactant | oxalyl chloride | 2M, 10-50 equiv. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(chlorocarbonyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | ClC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(=C)C | C38H51ClO3
